US04424225
4,9-Dihydro-4-isonicotinoyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one methoiodide in an amount of 3.4 gm (0.0073 mol) was suspended in 40 ml of methanol, and at 0° C. 0.5 gm (0.014 mol) of sodium borohydride were added in portions. After the development of hydrogen ceased, the mixture was stirred for a further two hours in an ice bath. Then, 100 ml of ice-water was added, the mixture was filtered, and the filtrate was extracted with methylene chloride. The extraction residue was recrystallized from acetonitrile. 4,9-Dihydro-4-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one was obtained, m.p.: 210°-212° C., in a yield of 35% of theory.

reactant | 4,9-Dihydro-4-isonicotinoyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(C1=CC=NC=C1)(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C17H11N3O2S
reactant | sodium borohydride | 0.014 mol, 0.5 gm | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methanol | 40 ml | CO | CH4O
product | 4,9-Dihydro-4-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 35% | CN1CC=C(CC1)C(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C18H17N3O2S
